US06933312B2
2-Bromomethyl-pyridine-3-carboxylic acid ethyl ester hydrochloride
A mixture of ethyl 2-methylnicotinate (5.0 g, 30.3 mmol), N-bromosuccinimide (7.5 g, 42.1 mmol) and benzoyl peroxide (0.5 g) in carbon tetrachloride (100 ml) was heated under reflux for 6 hours, then allowed to cool. The resulting mixture was filtered, the filtered solid washed with carbon tetrachloride, and the combined filtrate washed with 4% sodium hydroxide solution, water and 2% hydrochloric acid, then dried over sodium sulphate. The solution was then treated with ethereal hydrochloric acid, and the resulting precipitate was filtered off, washed with ether and dried to afford the title compound as a pale yellow solid (4.5 g).

reactant | ethyl 2-methylnicotinate | 30.3 mmol, 5.0 g | CC1=C(C(=O)OCC)C=CC=N1 | C9H11NO2
reactant | N-bromosuccinimide | 42.1 mmol, 7.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-pyridine-3-carboxylic acid ethyl ester hydrochloride | 4.5 g | Cl.C(C)OC(=O)C=1C(=NC=CC1)CBr | InChI=1S/C9H10BrNO2.ClH/c1-2-13-9(12)7-4-3-5-11-8(7)6-10;/h3-5H,2,6H2,1H3;1H
